US03950528
3-Amino-1-(3-chloro-6-fluorobenzyl)-pyrazol-5one ##SPC33##
21.6 g of 2-fluoro-5-chlorobenzylhydrazine were added dropwise under nitrogen to a solution of 19.8 g of β-amino-β-ethoxyacrylic acid ethyl ester and 0.5 g of p-toluenesulphonic acid in 100 ml of ethanol, in the course of which the temperature rose from 20° to 30°. After stirring for 2 hours, the mixture was left to stand overnight and the compound identified above, which had separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 160°, 17 g (57%).

reactant | 2-fluoro-5-chlorobenzylhydrazine | 21.6 g | FC1=C(CNN)C=C(C=C1)Cl | C7H8ClFN2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 19.8 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-chloro-6-fluorobenzyl)-pyrazol-5one | NC=1NN(C(C1)=O)CC1=CC(=CC=C1F)Cl | C10H9ClFN3O
